US20010006969A1
2-Allylamino-4-cyclohexylamino-7-methylthieno[3,2-d] pyrimidine hydrochloride
In 2.28 g (40.0 mmol) of allylamine was dissolved 250 mg (0.9 mmol) of 2-chloro-4-cyclohexylamino-7-methylthieno[ 3,2-d]pyrimidine, and the resulting solution was heated in a sealed tube at 140° C. for 24 hours. After the reaction mixture was cooled, 100 ml of water was added thereto, followed by extraction with ethyl acetate (20 ml×3). The organic layer was washed with 20 ml of water and dried over anhydrous sodium sulfate, and then the solvent was distilled off. The residue was purified by silica gel column chromatography and an eluate of hexane/ethyl acetate={fraction (4/1)} was concentrated. To the concentrate was added a 4N hydrochloric acid-ethyl acetate solution (1 ml), and crystals thus precipitated were filtered to give 200 mg (yield: 66.7%) of the title compound.

reactant | allylamine | 40.0 mmol, 2.28 g | C(C=C)N | C3H7N
reactant | 2-chloro-4-cyclohexylamino-7-methylthieno[ 3,2-d]pyrimidine | 0.9 mmol, 250 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)NC2CCCCC2 | C13H16ClN3S
solvent | water | 100 ml | O | H2O
product | 2-Allylamino-4-cyclohexylamino-7-methylthieno[3,2-d] pyrimidine hydrochloride | 200 mg, yield: 66.7% | Cl.C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC2CCCCC2 | InChI=1S/C16H22N4S.ClH/c1-3-9-17-16-19-13-11(2)10-21-14(13)15(20-16)18-12-7-5-4-6-8-12;/h3,10,12H,1,4-9H2,2H3,(H2,17,18,19,20);1H
